US08420632B2
19.5 g (141 mmol) of potassium carbonate and then 19.5 ml (134 mmol) of dimethyl bromomalonate are added to a solution of 25 g (134 mmol) of tert-butyl piperazine-1-carboxylate in 300 ml of acetonitrile. The reaction medium is stirred at ambient temperature for 24 h and then filtered in order to remove the insoluble salts, and concentrated under vacuum. The crude residue obtained is purified by chromatography on silica gel, elution being carried out with a 70/30 heptane/ethyl acetate mixture. 41 g (97%) of dimethyl 2-(4-tert-butoxycarbonylpiperazin-1-yl)malonate are obtained in the form of a light oil.

reactant | potassium carbonate | 141 mmol, 19.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl bromomalonate | 134 mmol, 19.5 ml | BrC(C(=O)OC)C(=O)OC | C5H7BrO4
reactant | tert-butyl piperazine-1-carboxylate | 134 mmol, 25 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | dimethyl 2-(4-tert-butoxycarbonylpiperazin-1-yl)malonate | 41 g, 97% | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C(=O)OC)C(=O)OC | C14H24N2O6
